US07842696B2
10% Pd/c (30 mg) was added to a stirred solution of 5-(2-Nitro-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide (160 mg, 0.3 mmol) in mixture of MeOH (60 mL) and THF (10 mL) and stirred under hydrogen atmosphere. The reaction mixture was then stirred for 1.5 hrs at room temperature. The mixture was filtered over a bed of celite. The celite was washed with MeOH and the filtrate was concentrated under reduced pressure. The crude was washed with ethyl acetate, filtered and dried to afford 40.3 mg (27% yield) of 5-(2-Amino-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 97.73%. 1H NMR (DMSO-d6): δ 13.6 (s, 1H), 8.6 (m, 1H), 7.6 (m, 4H), 7.5 (m, 1H), 7.4 (d, 1H), 7.3 (s, 1H), 7.0 (s, 1H), 6.5 (m, 4H), 6.2 (m, 2H), 5.1 (m, 1H), 4.2 (m, 3H), 3.6 (m, 4H), 3.4 (m, 2H), 3.2 (m, 2H).

reactant | 5-(2-Nitro-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 0.3 mmol, 160 mg | O=C(CNC(=O)C1=NNC(=C1)C1=C(C=CC=C1)[N+](=O)[O-])N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H21F3N6O5
reactant | MeOH | 60 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(2-Amino-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 40.3 mg, 27% yield | O=C(CNC(=O)C1=NNC(=C1)C1=C(C=CC=C1)N)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H23F3N6O3
